US07842694B2
N-(1,5-Dimethyl-1H-pyrazol-3-yl)-3-{[2-fluoro-1-(fluoromethyl)ethyl]oxy}-5-[(phenylmethyl)oxy]benzamide
A solution of 3-{[2-fluoro-1-(fluoromethyl)ethyl]oxy}-5-[(phenylmethyl)oxy]benzoic acid (2.96 mmol) in DMF (5 mL) was treated with 1,5-dimethyl-1H-pyrazol-3-ylamine (3.11 mmol), DIPEA (5.93 mmol) and HATU (3.85 mmol) and stirred at RT overnight. The mixture was poured into water (100 mL) and extracted with ethyl acetate (3×75 mL). The organics were washed with brine, dried (MgSO4) and evaporated in vacuo before chromatography on silica, eluting with 50-100% ethyl acetate in isohexane, to give the desired compound as a colourless glass (784 mg). 1H NMR δ (d6-DMSO): 2.81 (s, 3H), 3.67 (s, 3H), 4.66 (m, 2H), 4.78 (m, 2H), 5.04 (m, 1H), 5.69 (s, 2H), 6.43 (s, 1H), 6.85 (t, 1H), 7.28 (m, 1H), 7.32 (m, 1H), 7.35 (m, 1H), 7.41 (m, 2H), 7.47 (m, 2H), 10.64 (s, 1H); m/z 416 (M+H)+

reactant | 3-{[2-fluoro-1-(fluoromethyl)ethyl]oxy}-5-[(phenylmethyl)oxy]benzoic acid | 2.96 mmol | FCC(CF)OC=1C=C(C(=O)O)C=C(C1)OCC1=CC=CC=C1 | C17H16F2O4
reactant | 1,5-dimethyl-1H-pyrazol-3-ylamine | 3.11 mmol | CN1N=C(C=C1C)N | C5H9N3
reactant | DIPEA | 5.93 mmol | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 3.85 mmol | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
product | N-(1,5-Dimethyl-1H-pyrazol-3-yl)-3-{[2-fluoro-1-(fluoromethyl)ethyl]oxy}-5-[(phenylmethyl)oxy]benzamide | 784 mg | CN1N=C(C=C1C)NC(C1=CC(=CC(=C1)OCC1=CC=CC=C1)OC(CF)CF)=O | C22H23F2N3O3
